US07030118B2
B) 2-Methyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid ethyl ester
Trifluoroacetic acid (0.45 ml, 5.85 mmol) was added to a solution of 1-amino-1H-pyrrole-2,3-dicarboxylic acid diethyl ester, hydrochloride salt in CH3CN (20 ml) and heated to 85° C. for 12 h. The reaction mixture was concentrated in vacuo, diluted with CH3CN (20 ml), treated with triethylamine (1.36 ml, 11.9 mmol), and heated to 85° C. for 6 h. The reaction mixture was concentrated in vacuo, dissolved in EtOAc and the organic layer washed with 1 N HCl (1×50 ml), saturated NaHCO3 (3×50 ml), dried (Na2SO4), filtered and concentrated in vacuo to afford the title compound as a solid (0.20 g, 54%): 1H NMR (CDCl3) δ 7.27–7.32 (m, 1H), 7.01–7.02 (m, 1H), 4.32–4.38 (m, 2H), 2.41 (s, 3H), 1.90 (br m, 1H), 1.35–1.40 (m, 3H); MS (ESI+) 222 (M++H).

reactant | Trifluoroacetic acid | 5.85 mmol, 0.45 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-amino-1H-pyrrole-2,3-dicarboxylic acid diethyl ester, hydrochloride salt | Cl.C(C)OC(=O)C=1N(C=CC1C(=O)OCC)N
reactant | triethylamine | 11.9 mmol, 1.36 ml | C(C)N(CC)CC | C6H15N
solvent | CH3CN | 20 ml | CC#N | C2H3N
product | 2-Methyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid ethyl ester | 0.20 g, 54% | C(C)OC(=O)C=1C=CN2N=C(NC(C21)=O)C | C10H11N3O3
